2111-02-07 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-2-6**] 08:00 PM
   - maintained NSR overnight in 70-80's
   - continued on heparin gtt and amiodarone gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-2-6**] 08:42 PM
   Heparin Sodium (Prophylaxis) - [**2111-2-6**] 08:42 PM
   Hydromorphone (Dilaudid) - [**2111-2-7**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-7**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 71 (68 - 155) bpm
   BP: 122/66(81) {87/55(65) - 122/69(81)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,572 mL
                                                                  1,142 mL
   PO:
             TF:
   IVF:
                                                                  1,572 mL
                                                                  1,142 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                    130 mL
   Urine:
                                                                     35 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,537 mL
                                                                  1,012 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, dry MM
   NECK: No JVD
   COR: regular rate, no M/G/R, normal S1 S2, radial pulses +2
   PULM: bronchial breath sounds, otherwise clear
   ABD: surgical incision C/D/I with TTP around it, markedly diminished
   bowel sounds
   EXT: no [**Location (un) **]
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. 3/5 L sided strength.
   SKIN: No rashes.
   Labs / Radiology
   789
   114
   1.7
   22
   5
   36
   105
   138
   28.6
   12.8
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
   TropT
   0.31
   Other labs: CK / CKMB / Troponin-T:391/6/0.31
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   80 yo F with essential thrombocytosis and GERD s/p ex-lap with LOA and
   hernia repair transferred from surgery for afib with RVR which reverted
   to NSR after amio bolus/gtt and fluids.  Also with cardic biomarker
   elevation, chest pain and EKG changes concerning for ACS.
   # Atrial fibrillation: Broke with amiodarone gtt and IVF boluses.  Now
   in NSR.  Was likely precipitated by hypovolemia. IVF 500cc/1 hr bolus
   and repeat as tolerated. Received amio bolus. Reverted after fluids and
   gtt
   - amiodarone gtt for now, can d/c after 24 hours load period no
   indication for po treatment as likely ppt by hypovolemia
   - continue on heparin gtt, will likely need systemic anticoag with
   coumadin given CHADS score of 4, hx of CVA
   - echo ordered
   # Hypotension:  Resolved after restoration of NSR. SBP's into the 80's
   with high rate, dropped to 70's with iv lopressor, asymptomatic,
   mentating fine.  SBP increase to 90-100's after reversion to NSR.
   - bolus as above
   - trend
   # Elevated Troponins:  Trop 0.26--
0.31 this morning, CK 409-
389 which
   were wnl on admission. Concern for ACs as EKG with fillped t waves in
   V3-V5 compared to admit EKG.  Could be [**3-2**] demand ischemia though CK
   slight elevated and patient with chest pain - concerning for NSTEMI-
   will treat as such
   - continue heparin gtt, ASA
   - bb and statin when can tolerate po
   # Chest Pain:Resolved.  Had in setting of afib with RVR, concerning for
   ACS give ET, chest pain, and hypovolemia
   - heparin as above
   # S/p Ex Lap:  Doing well, has some pain at incision site
   - f/u surgery recs
   - d/c dilaudid pca and write for po
 percocet - now that can take
   sips
   - ADAT to sips
   # Oliguria:  Continues to have low UOP as likely still very dry.  On
   transfer  had little to no UOP today per nursing signout.  Likely [**3-2**]
   hypovolemia.  43 hyaline casts on UA indicating hypovolemia.
   - bolus 500cc IVF now, reassess resp status and continue to bolus until
   UOP >50cc/hr, will likely need several more liters
   - trend UOP
   # ARF:  Cr 1.7 now up from 1.4, unknown baseline but 2 days ago Cr was
   1.1.  Likely [**3-2**] to hypovolemia.
   - bolus as above and as needed, careful monitoring of respiratory
   status as unknown EF
 echo pending
   # GERD:  Home PPI
   ICU Care
   Nutrition: sips
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2111-2-6**] 09:41 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI discussed with patient on admission
   Disposition: ICU for now, transfer to floor once off amiodarone gtt

2111-02-07 10:24:00 Physician Attending Progress Note
Chief Complaint: Afib, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Loaded with amiodarone and started on a drip. Given IV fluids.
   Converted to NSR. Hemodynamically stable. Good O2 sats on low dose of
   supplemental oxygen. Started on IV heparin.
   24 Hour Events:
 EKG - At [**2111-2-6**] 08:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-2-6**] 08:42 PM
   Heparin Sodium (Prophylaxis) - [**2111-2-6**] 08:42 PM
   Hydromorphone (Dilaudid) - [**2111-2-7**] 12:06 AM
   Other medications:
   amiodarone, ASA,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-7**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 70 (68 - 155) bpm
   BP: 132/71(84) {87/55(55) - 132/73(84)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,572 mL
                                                                  1,330 mL
   PO:
             TF:
   IVF:
                                                                  1,572 mL
                                                                  1,330 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                    160 mL
   Urine:
                                                                     35 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,537 mL
                                                                  1,170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, oral mucosa dry
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes : ,
   Diminished: , No(t) Absent : , Rhonchorous: ), Diffuse coarse airway
   sounds; scattered wheezes
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Diffusely, No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   789 K/uL
   114 mg/dL
   1.7 mg/dL
   22 mEq/L
   5.0 mEq/L
   36 mg/dL
   105 mEq/L
   138 mEq/L
   28.6 %
   12.8 K/uL
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
                             [**2111-2-7**]  09:01 AM
   WBC
   12.8
   Hct
   28.6
   Plt
   789
   Cr
   1.7
   TropT
   0.31
   Glucose
   114
   Other labs: CK / CKMB / Troponin-T:360/6/0.31, Ca++:8.8 mg/dL, Mg++:2.3
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   HYPOTENSION
   AMEMIA
   RENAL FAILURE
   Remains in NSR on amiodarone. Hemodynamically stable. Heparin started
   for possible myocardial infarction/unstable angina.
   Creat has risen. Patient appears to be intravascular volume depleted.
   Would give additional fluids today. Hypotension yesterday with beta
   blocker likely related, in part, to volume depletion. Goal is urine
   output of 50 cc/hr.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   Ambulate out of bed today. Patient needs to be encouraged to use
   incentive spirometer and cough to clear secretions.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-2-6**] 09:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 25 minutes

2111-02-08 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-2-7**] 10:55 PM
   - Pt
s Amiodarone gtt d/c
d after 24hours at 1900 yesterday, at 2200 PM
   pt noted to be back in a-fib with RVR to the rates of 120-140s. EKG
   showed t-wave inversion in the lateral leads similar to prior EKGs when
   pt was in Afib with RVR.
   - Pt received Metoprolol to no effect, received Amiodarone 400mg this
   AM, converted back into sinus rhythm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Metoprolol - [**2111-2-7**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-8**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 131 (65 - 132) bpm
   BP: 108/68(77) {108/45(55) - 139/89(95)} mmHg
   RR: 27 (10 - 35) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,472 mL
                                                                    288 mL
   PO:
                                                                    240 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  4,232 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    440 mL
   Urine:
                                                                    520 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,952 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   S: Pt asymptomatic during A.fib with RVR denied any palpitations, chest
   pain, fevers, chills, n/v. Feels thirsty.
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, dry MM
   NECK: No JVD
   COR: regular rate, no M/G/R, normal S1 S2, radial pulses +2
   PULM: bronchial breath sounds, otherwise clear
   ABD: surgical incision C/D/I with TTP around it, markedly diminished
   bowel sounds
   EXT: no [**Location (un) **]
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. 3/5 L sided strength.
   SKIN: No rashes.
   Labs / Radiology
   734 K/uL
   10.0 g/dL
   95 mg/dL
   1.8 mg/dL
   16 mEq/L
   4.6 mEq/L
   39 mg/dL
   109 mEq/L
   138 mEq/L
   30.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
                             [**2111-2-7**]  09:01 AM
                             [**2111-2-7**]  06:48 PM
                             [**2111-2-8**]  05:07 AM
   WBC
   12.8
   12.6
   Hct
   28.6
   30.8
   Plt
   789
   734
   Cr
   1.7
   1.8
   TropT
   0.31
   0.32
   0.32
   Glucose
   114
   95
   Other labs: PT / PTT / INR:14.7/51.2/1.3, CK / CKMB /
   Troponin-T:346/7/0.32, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   80 yo F with essential thrombocytosis and GERD s/p ex-lap with LOA and
   hernia repair transferred from surgery for afib with RVR which reverted
   to NSR after amio bolus/gtt and fluids.  Also with cardic biomarker
   elevation, chest pain and EKG changes concerning for ACS.
   # Atrial fibrillation: Broke with amiodarone gtt and IVF boluses.
   However following d/c of drip pt went back into A fib. Following
   several doses of IV and PO Metoprolol pt showed minimal response still
   carrying A-fib rates in the 110s-130s. Following Amiodarone 400mg at
   0800 pt was noticed on rounds to be back in NSR.  Cardiology is
   currently aware that pt went back in A, fib with RVR. Pt also received
   bolus IVF yesterday which appeared not to help the pt
s A.fib rate.
   - Back in Sinus rhythm on PO Amiodarone [**Hospital1 **]
   - continue on heparin gtt, will likely need systemic anticoag with
   coumadin given CHADS score of 4, hx of CVA
   - echo ordered not performed yet
   # Elevated Troponins:  Trop 0.26--
0.32 yesterday, this morning CE
   still pending. Per Cards note most likely demand ischemia will continue
   to cycle enzymes until trend down. AM Ces pending however it will not
   be suprising if they are slightly elevated given her repeat A fib with
   RVR episode over most of last night. Unfortunately pt
s heparin gtt has
   been subtherapeutic, pt also lost IV access this AM and heparin gtt was
   stopped. Will continue heparin gtt with therapeutic goal PTT 60-80.
   - continue heparin gtt, ASA
   # S/p Ex Lap:  Doing well, has some pain at incision site
   - f/u surgery recs
   - d/c dilaudid pca and write for po
 percocet - now that can take
   sips
   - ADAT to sips
   # Oliguria:  Continues to have low UOP which appeared to respond to
   fluid boluses. Given the response to IVF and the increase in Creatinine
   pt
s is likely still hypovolemic. Will bolus on LR as she has a
   non-anion gap metabolic acidosis, will check PM lytes to ensure pt does
   not become hyperkalemic given her increase in Creatinine. FENA
   yesterday showed pre-renal [**Last Name (un) **].
   - trend UOP
   - bolus with LR IVF
   - repeat PM lytes to check for hyperkalemia
   # ARF:  Cr 1.8 now up from 1.7, unknown baseline but several days ago
   Cr was 1.1.  Likely [**3-2**] to hypovolemia.
   - bolus as above and as needed, careful monitoring of respiratory
   status as unknown EF
 echo pending
   # Non-anion Gap Metabolic Acidosis: Pt
s HCO3 increased acutely from 16
   to 22, pt not having diarrhea, would not expect RTA. Pt
s NAGMA may be
   2/2 NS fluid received. Will give IVF with LR and following HCO3 to
   trend,
   # GERD:  Home PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-2-6**] 09:39 PM
   Prophylaxis:
   DVT: On Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-02-08 10:30:00 Physician Attending Progress Note
Chief Complaint: Afib, s/p small bowel obstruction, anemia, acute renal
   failure, metabolic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient went back to afib when amiodarone infusion stopped. HR 130-140.
   Given beta blockers, which had minimal effect on rate. Given additional
   amiodarone orally; this AM converted back to NSR. Asymptomatic when she
   goes into Afib.
   Afebrile.
   Renal function worse with new metabolic acidosis.
   On IV heparin.
   24 Hour Events:
 EKG - At [**2111-2-7**] 10:55 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Metoprolol - [**2111-2-7**] 10:45 PM
   Other medications:
   protonix, atrovent, ASA, amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-8**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 135 (65 - 136) bpm
   BP: 118/74(81) {98/45(65) - 139/89(95)} mmHg
   RR: 36 (10 - 36) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,472 mL
                                                                    377 mL
   PO:
                                                                    240 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  4,232 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    570 mL
   Urine:
                                                                    520 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,952 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Dry oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes
   : Diffuse, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Mild diffuse, Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   734 K/uL
   95 mg/dL
   1.8 mg/dL
   16 mEq/L
   4.6 mEq/L
   39 mg/dL
   109 mEq/L
   138 mEq/L
   30.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
                             [**2111-2-7**]  09:01 AM
                             [**2111-2-7**]  06:48 PM
                             [**2111-2-8**]  05:07 AM
   WBC
   12.8
   12.6
   Hct
   28.6
   30.8
   Plt
   789
   734
   Cr
   1.7
   1.8
   TropT
   0.31
   0.32
   0.32
   Glucose
   114
   95
   Other labs: PT / PTT / INR:14.7/51.2/1.3, CK / CKMB /
   Troponin-T:346/7/0.32, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: no infiltrates; hiatal hernia
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ANEMIA
   METABOLIC ACIDOSIS
   Back in NSR this AM with additional amiodarone. Blood pressure has been
   stable.
   Creat has continued to rise and metabolic acidosis has worsened. Urine
   output has improved. Clinically, she still appears to be
   intravascularly volume depleted. Oxygenation is excellent. Will
   additional fluids today (lactated Ringers) to try to achieve UO of 50
   cc/hour.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2111-2-8**] 09:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2111-02-09 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2111-2-8**] 04:00 PM
   double lumen
   - Patient had a PICC line placed.
   - Cards c/s recommended changing the amio dosing to 200 mg tid x 6 days
   starting t/m am, then 200 mg [**Hospital1 **] for 4 weeks, then 200 mg daily after.
   Also per cards recs started a low-dose B-blocker for postMI
   cardioprotection (12.5 metoprolol [**Hospital1 **]).  Rec anticoagulation and
   increasing ASA to 325 mg daily and surgery agreed with the ASA increase
   and will get back to use regarding timing of when to start
   anticoagulation.
   - Her pm labs showed CK 398 --> 262, Cr 1.8 -->1.7.
   - Will get a TTE on Monday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2111-2-8**] 11:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-9**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 70 (70 - 136) bpm
   BP: 132/78(90) {98/47(61) - 140/78(90)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,351 mL
                                                                    143 mL
   PO:
                                                                    430 mL
             TF:
   IVF:
                                                                    921 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    290 mL
   Urine:
                                                                  1,010 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   GEN: Well-appearing, well-nourished, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, dry MM
   NECK: No JVD
   COR: regular rate, no M/G/R, normal S1 S2, radial pulses +2
   PULM: bronchial breath sounds, otherwise clear
   ABD: surgical incision C/D/I with TTP around it, markedly diminished
   bowel sounds
   EXT: no [**Location (un) **]
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. 3/5 L sided strength.
   SKIN: No rashes.
   Labs / Radiology
   866 K/uL
   9.0 g/dL
   122 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   38 mg/dL
   110 mEq/L
   140 mEq/L
   26.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
                             [**2111-2-7**]  09:01 AM
                             [**2111-2-7**]  06:48 PM
                             [**2111-2-8**]  05:07 AM
                             [**2111-2-8**]  04:15 PM
                             [**2111-2-9**]  04:31 AM
   WBC
   12.8
   12.6
   11.7
   Hct
   28.6
   30.8
   26.9
   Plt
   789
   734
   866
   Cr
   1.7
   1.8
   1.7
   1.8
   TropT
   0.31
   0.32
   0.32
   0.27
   0.23
   Glucose
   114
   95
   97
   122
   Other labs: PT / PTT / INR:15.6/91.2/1.4, CK / CKMB /
   Troponin-T:262/5/0.23, Albumin:3.5 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   80 yo F with essential thrombocytosis and GERD s/p ex-lap with LOA and
   hernia repair transferred from surgery for afib with RVR which reverted
   to NSR after amio bolus/gtt and fluids.  Also with cardic biomarker
   elevation, chest pain and EKG changes concerning for ACS.
   # Atrial fibrillation: Broke with amiodarone gtt and IVF boluses.
   However following d/c of drip pt went back into A fib. Following
   several doses of IV and PO Metoprolol pt showed minimal response still
   carrying A-fib rates in the 110s-130s. Following initiation of
   Amiodarone [**Hospital1 **] dosing yesterday pt reverted back into NSR.  Cardiology
   consult recommended changing amiodarone dosing to 200mg TID x 6 days
   starting today, then 200mg x 4 weeks and then 200mg daily. Cards also
   recommended low dose beta blockade for post MI cardiac protection.
   - Still in NSR, appreciate card recs will change Amiodarone dosing to
   TID 200mg, will also started Metoprolol Tartrate 12.5mg [**Hospital1 **]
   - continue on heparin gtt, will likely need systemic anticoag with
   coumadin given CHADS score of 4, hx of CVA. Will discuss with surgery
   regarding anticoagulation
   - echo ordered will likely receive today
   # Elevated Troponins:  Troponins currently trending down  0.27
0.23.
   Will continue pt on Heparin gtt for possible Coumadin versus Lovenox
   bridge. Will start on full dose ASA and low dose beta blocker as pt is
   post MI.
   - continue heparin gtt, ASA 325mg qday, Metoprolol 12.5mg [**Hospital1 **]
   # S/p Ex Lap:  Doing well, has some pain at incision site
   - f/u surgery recs
   - d/c dilaudid pca and write for po
 percocet - now that can take
   sips
   - ADAT to sips
   # Oliguria:  UOP improving following IVF bolus, pt
s non-anion gap
   acidosis improving with LR blousing rather than NS bolus. Will bolus
   again 500cc this AM.
   - trend UOP
   - bolus with LR IVF
   - repeat PM lytes to check for hyperkalemia
   # ARF:  Cr 1.8 now up from 1.7, unknown baseline but several days ago
   Cr was 1.1.  Likely [**3-2**] to hypovolemia.
   - bolus as above and as needed, careful monitoring of respiratory
   status as unknown EF
 echo pending
   # Non-anion Gap Metabolic Acidosis: Pt
s HCO3 increased acutely from 16
   to 22, pt not having diarrhea, would not expect RTA. Pt
s NAGMA may be
   2/2 NS fluid received. Will give IVF with LR and following HCO3 to
   trend,
   # GERD:  Home PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-2-8**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-02-09 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Persistent afib over the weekend necessitating po amio load and beta
   blocker therapy. no overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 925 units/hour
   Other ICU medications:
   Heparin Sodium - [**2111-2-8**] 11:46 PM
   Other medications:
   Protnix, Atrovent, amiodarone, metoprolol, ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-9**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 82 (70 - 84) bpm
   BP: 137/79(92) {98/47(61) - 140/79(92)} mmHg
   RR: 36 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,351 mL
                                                                  1,228 mL
   PO:
                                                                    430 mL
             TF:
   IVF:
                                                                    921 mL
                                                                  1,228 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    380 mL
   Urine:
                                                                  1,010 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), NSR, no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   866 K/uL
   122 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   38 mg/dL
   110 mEq/L
   140 mEq/L
   26.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2111-2-6**]  11:20 PM
                             [**2111-2-7**]  09:01 AM
                             [**2111-2-7**]  06:48 PM
                             [**2111-2-8**]  05:07 AM
                             [**2111-2-8**]  04:15 PM
                             [**2111-2-9**]  04:31 AM
   WBC
   12.8
   12.6
   11.7
   Hct
   28.6
   30.8
   26.9
   Plt
   789
   734
   866
   Cr
   1.7
   1.8
   1.7
   1.8
   TropT
   0.31
   0.32
   0.32
   0.27
   0.23
   Glucose
   114
   95
   97
   122
   Other labs: PT / PTT / INR:15.6/91.2/1.4, CK / CKMB /
   Troponin-T:262/5/0.23, Albumin:3.5 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Imaging: Echo- pending
   CXR- poss atelectasis B bases, CVC in place
   Assessment and Plan
   AFIB- on po amio to finish load per Cards
   -on heparin gtt; transition to coumadin when ok by [**Doctor First Name **]
   DEMAND ISCHEMIA- resolved
   -BB, ASA as per CV svce
   CHRONIC KIDNEY DISEASE- fluid responsive, stable
   ANEMIA- stable
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2111-2-8**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes